* File: /home/VLSI_graduated_2020/2015104027/2020_2_VLSI/Lab01/HSpice/fan_in_6_comb/PLS/fan_in_6_comb.pex.netlist.pex
* Created: Mon Oct 19 21:40:04 2020
* Program "Calibre xRC"
* Version "v2015.4_16.11"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_FAN_IN_6_COMB%NET19 1 2 3 6 9 10 13 16 20
c65 23 0 0.00187135f
c66 20 0 0.00909138f
c67 16 0 0.0178945f
c68 13 0 0.00552077f
c69 10 0 0.00359178f
c70 9 0 0.047426f
c71 6 0 0.0108943f
c72 3 0 0.005277f
c73 2 0 0.00514696f
c74 1 0 0.00521483f
r75 18 20 0.456667
r76 17 23 0.112074
r77 16 18 0.139898
r78 16 17 1.88393
r79 11 23 0.0224454
r80 11 13 0.456667
r81 9 23 0.112074
r82 9 10 5.94643
r83 4 10 0.139898
r84 4 6 0.456667
r85 3 20 102.4
r86 2 13 102.4
r87 1 6 102.4
.ends

.subckt PM_FAN_IN_6_COMB%noxref_2 1 2 8
c32 8 0 0.0563519f
c33 2 0 0.00525698f
c34 1 0 0.00613073f
r35 4 8 5.34821
r36 2 8 102.4
r37 1 4 102.4
.ends

.subckt PM_FAN_IN_6_COMB%NET15 1 2 3 6 9 10 13 16 20
c54 23 0 5.75398e-19
c55 20 0 0.00553253f
c56 16 0 0.00948469f
c57 13 0 0.00746752f
c58 10 0 0.00382471f
c59 9 0 0.00970317f
c60 6 0 0.00943187f
c61 3 0 0.00541247f
c62 2 0 0.00508828f
c63 1 0 0.005045f
r64 18 20 0.46
r65 17 23 0.112074
r66 16 18 0.139898
r67 16 17 1.86607
r68 11 23 0.0224454
r69 11 13 0.46
r70 9 23 0.112074
r71 9 10 2.27679
r72 4 10 0.139898
r73 4 6 0.46
r74 3 20 102.4
r75 2 13 102.4
r76 1 6 102.4
.ends

.subckt PM_FAN_IN_6_COMB%Y_B 3 7 9 10 11 12 17 18 19 28 29
c83 29 0 0.00896523f
c84 28 0 0.071199f
c85 19 0 0.00307394f
c86 18 0 0.00380157f
c87 17 0 0.0122741f
c88 12 0 0.0151241f
c89 11 0 0.0163323f
c90 10 0 0.00403703f
c91 9 0 0.00951946f
c92 7 0 0.030798f
c93 3 0 0.0273667f
r94 29 32 80.1018
r95 28 29 91.7972
r96 24 28 7.90536
r97 24 25 102.4
r98 19 25 0.106158
r99 17 25 0.106158
r100 17 18 2.92308
r101 13 18 0.212317
r102 12 19 2.25369
r103 11 13 2.18938
r104 9 32 5.81838
r105 9 10 0.477301
r106 5 10 5.3213
r107 5 7 38.22
r108 1 10 5.3213
r109 1 3 33.15
.ends

.subckt PM_FAN_IN_6_COMB%A 3 7 10 12
c14 12 0 0.00687119f
c15 10 0 0.00175601f
c16 9 0 0.00678127f
c17 7 0 0.0505375f
c18 3 0 0.0286872f
r19 12 15 89.3538
r20 9 15 4.42
r21 9 10 0.043368
r22 5 10 4.56151
r23 5 7 67.47
r24 1 10 4.56151
r25 1 3 58.89
.ends

.subckt PM_FAN_IN_6_COMB%B 3 7 9 10 15
c23 15 0 0.00706955f
c24 10 0 0.00923602f
c25 9 0 0.00251008f
c26 7 0 0.0435031f
c27 3 0 0.0283276f
r28 13 15 89.3538
r29 10 13 8.06
r30 9 13 1.82
r31 5 10 4.58872
r32 5 7 50.7
r33 1 9 4.58872
r34 1 3 75.66
.ends

.subckt PM_FAN_IN_6_COMB%F 3 7 9 10 12
c29 12 0 0.00320292f
c30 10 0 0.0398018f
c31 9 0 0.00396213f
c32 7 0 0.0549649f
c33 3 0 0.025529f
r34 12 15 89.3538
r35 10 15 2.6
r36 9 15 50.7
r37 5 10 4.53696
r38 5 7 76.5143
r39 1 9 4.58872
r40 1 3 36.66
.ends

.subckt PM_FAN_IN_6_COMB%E 3 5 9 12 18
c30 18 0 0.00577248f
c31 13 0 0.00223913f
c32 12 0 0.00223765f
c33 11 0 0.0030052f
c34 9 0 0.0242171f
c35 5 0 0.009195f
c36 3 0 0.0472249f
r37 16 18 89.3538
r38 12 16 3.12
r39 12 13 4.7687
r40 11 16 1.82
r41 7 9 36.66
r42 5 7 4.35808
r43 5 13 13.65
r44 1 11 4.58872
r45 1 3 80.34
.ends

.subckt PM_FAN_IN_6_COMB%D 3 7 13 18
c22 18 0 0.00895102f
c23 13 0 0.00415796f
c24 7 0 0.0255239f
c25 3 0 0.0354409f
r26 11 18 4.42
r27 11 15 7.54
r28 11 13 89.3538
r29 5 18 1.98872
r30 5 7 66.3
r31 1 15 1.98872
r32 1 3 50.7
.ends

.subckt PM_FAN_IN_6_COMB%C 3 7 10 12 15
c19 15 0 0.00630158f
c20 12 0 0.00527691f
c21 10 0 0.00183985f
c22 7 0 0.0435031f
c23 3 0 0.0341003f
r24 12 15 89.3538
r25 9 15 3.38
r26 9 10 0.043368
r27 5 10 4.56151
r28 5 7 50.7
r29 1 10 4.56151
r30 1 3 66.3
.ends

.subckt PM_FAN_IN_6_COMB%GND 1 2 3 10 11 29 32 38 45 52 61 62 69 86
c66 86 0 0.0173379f
c67 85 0 0.00222496f
c68 81 0 0.00223431f
c69 80 0 0.00219499f
c70 79 0 0.00219499f
c71 78 0 0.00219499f
c72 77 0 0.00220003f
c73 69 0 0.00708762f
c74 62 0 0.0176924f
c75 61 0 0.0110801f
c76 58 0 0.0125923f
c77 52 0 0.0355715f
c78 45 0 0.0146522f
c79 38 0 0.0140722f
c80 29 0 0.0414482f
c81 24 0 0.00803208f
c82 23 0 0.00541631f
c83 11 0 0.00842466f
c84 10 0 0.0491626f
c85 3 0 0.00809751f
c86 2 0 0.0176367f
c87 1 0 0.0118485f
r88 71 86 0.00840123
r89 70 85 0.148974
r90 69 86 0.2058
r91 69 70 0.963571
r92 64 85 0.0521769
r93 62 85 0.148974
r94 62 63 1.9
r95 60 61 0.979231
r96 59 81 0.160909
r97 58 60 0.212317
r98 58 59 0.833077
r99 54 81 0.0418175
r100 53 80 0.160909
r101 52 81 0.160909
r102 52 53 4.77923
r103 47 80 0.0418175
r104 46 79 0.160909
r105 45 80 0.160909
r106 45 46 1.82692
r107 40 79 0.0418175
r108 39 78 0.160909
r109 38 79 0.160909
r110 38 39 2.01692
r111 33 78 0.0418175
r112 30 77 0.160909
r113 30 32 4.23846
r114 29 78 0.160909
r115 29 32 1.15462
r116 25 77 0.0418175
r117 23 77 0.160909
r118 23 24 0.833077
r119 18 24 0.212317
r120 11 64 0.909077
r121 10 61 0.10949
r122 10 63 0.10365
r123 10 47 1.46446
r124 10 40 1.46446
r125 10 33 1.46446
r126 10 18 1.46446
r127 3 71 0.642
r128 2 54 1.46446
r129 1 25 1.09908
.ends

.subckt PM_FAN_IN_6_COMB%VDD 6 7 8 9 10 27 33 36 42 49 58 65 77 79
c76 79 0 0.0170091f
c77 78 0 0.00216665f
c78 77 0 8.10101e-19
c79 76 0 0.00222284f
c80 75 0 0.00222284f
c81 74 0 0.00227625f
c82 73 0 0.00227625f
c83 65 0 0.00703396f
c84 58 0 0.0174887f
c85 57 0 0.0107616f
c86 49 0 0.0648971f
c87 42 0 0.0293222f
c88 33 0 0.00540374f
c89 27 0 0.0253336f
c90 22 0 0.00805993f
c91 21 0 0.00541631f
c92 10 0 0.00940861f
c93 9 0 0.0462438f
c94 8 0 0.00986868f
c95 7 0 0.0190755f
c96 6 0 0.0216629f
r97 67 79 0.000591796
r98 66 78 0.160909
r99 65 79 0.217884
r100 65 66 1.03769
r101 60 78 0.0418175
r102 59 77 0.0418175
r103 58 78 0.160909
r104 58 59 2.11923
r105 56 77 0.160909
r106 56 57 1.34462
r107 51 77 0.160909
r108 50 76 0.160909
r109 49 57 0.212317
r110 49 50 7.29308
r111 44 76 0.0418175
r112 43 75 0.160909
r113 42 76 0.160909
r114 42 43 3.78538
r115 37 75 0.0418175
r116 34 74 0.160909
r117 34 36 0.555385
r118 33 75 0.160909
r119 33 36 0.277692
r120 29 74 0.0418175
r121 28 73 0.160909
r122 27 74 0.160909
r123 27 28 3.31769
r124 23 73 0.0418175
r125 21 73 0.160909
r126 21 22 0.833077
r127 16 22 0.212317
r128 10 60 1.02015
r129 9 51 0.260154
r130 9 44 1.98477
r131 9 37 1.98477
r132 9 16 1.98477
r133 8 67 0.668
r134 7 29 1.98477
r135 6 23 1.98477
.ends

.subckt PM_FAN_IN_6_COMB%Y 1 2 13 15
c11 15 0 6.58948e-19
c12 13 0 0.0286082f
c13 2 0 0.018525f
c14 1 0 0.016929f
r15 11 15 0.0883294
r16 11 13 2.63077
r17 7 15 0.113465
r18 3 15 0.113465
r19 2 7 0.976308
r20 1 3 0.933436
.ends

